US09421205B2
(g) 2-(2-(2-((4-(Piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)isonicotinamide (I131)
Trifluoroacetic acid (100 μL, 0.131 mmol) was added to a solution of tert-butyl 4-(4-((4-(2-(4-carbamoylpyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I130) (50 mg, 88 μmol) in DCM (4 mL) and the resulting mixture was stirred for 1 hour at room temperature. The volatiles were evaporated under reduced pressure and the residue purified by chromatography (SiO2, 0-50% MeOH/DCM) to give the title compound (I131) (28 mg, 68%) as a colourless solid; 1H NMR (400 MHz, d4-MeOD) δ 8.55 (d, J=5.2 Hz, 1H), 8.49 (s, 1H), 7.74 (s, 1H), 7.61 (dd, J=5.2, 1.3 Hz, 1H), 7.53 (d, J=8.3 Hz, 2H), 7.17 (d, J=8.5 Hz, 2H), 3.46 (d, J=12.7 Hz, 2H), 3.37 (t, J=7.0 Hz, 2H), 3.27 (dt, J=3.2, 1.6 Hz, 5H), 3.18-3.04 (m, 2H), 2.83 (ddd, J=12.1, 8.7, 3.6 Hz, 1H), 2.03 (d, J=13.8 Hz, 2H), 1.88 (ddd, J=16.7, 13.6, 3.8 Hz, 2H). LCMS Method C: rt 4.44 min; m/z 471.1 [M+1]+, 469.1 [M−1]−.

reactant | Trifluoroacetic acid | 0.131 mmol, 100 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-((4-(2-(4-carbamoylpyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 88 μmol, 50 mg | C(N)(=O)C1=CC(=NC=C1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C29H33F3N6O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-((4-(Piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)isonicotinamide | 28 mg, 68% | N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)N)C=CN1)C(F)(F)F | C24H25F3N6O
